US08114894B2
2-(6-Amino-1-isopropyl-1H-indol-3-yl)-2-oxo-N-(2-(piperidin-1-yl)ethyl)acetamide hydrochloride
The title compound was prepared according to the following procedure: 2-(1-isopropyl-6-nitro-1H-indol-3-yl)-2-oxo-N-(2-(piperidin-1-yl)ethyl)acetamide (500 mg, 1.29 mmol) was dissolved in EtOAc. SnCl2.2H2O (1.39 g, 6.50 mmol) was added portionwise and the mixture was heated at reflux for 8 hr. The reaction mixture was then cooled and treated with sat. NaHCO3. After stirring at RT for 30 min., the reaction mixture was extracted with EtOAc, dried over MgSO4, concentrated down and then converted to the HCl salt to yield the title compound (350 mg, 76% yield): 1H NMR (400 MHz, DMSO-d6): δ 10.30 (NH2 and NH+, br, s, 3H), 9.04 (s, 1H), 8.87 (s, 1H), 8.26 (s, 1H), 7.67 (s, 1H), 7.25 (s, 1H), 4.77 (m, 1H), 3.60 (m, 2H), 3.17 (m, 2H), 2.86 (m, 2H), 1.74 (m, 4H), 1.50 (d, 6H), 1.28 (m, 2H), 1.04 (m, 2H); MS (ESI) m/z: Calculated for C20H28N4O2: 356.2. Found: 357.2 (M+H)+.

reactant | 2-(1-isopropyl-6-nitro-1H-indol-3-yl)-2-oxo-N-(2-(piperidin-1-yl)ethyl)acetamide | 1.29 mmol, 500 mg | C(C)(C)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C(C(=O)NCCN1CCCCC1)=O | C20H26N4O4
reactant | SnCl2.2H2O | 6.50 mmol, 1.39 g | O.O.Cl[Sn]Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(6-Amino-1-isopropyl-1H-indol-3-yl)-2-oxo-N-(2-(piperidin-1-yl)ethyl)acetamide hydrochloride | 350 mg, 76% yield | Cl.NC1=CC=C2C(=CN(C2=C1)C(C)C)C(C(=O)NCCN1CCCCC1)=O | InChI=1S/C20H28N4O2.ClH/c1-14(2)24-13-17(16-7-6-15(21)12-18(16)24)19(25)20(26)22-8-11-23-9-4-3-5-10-23;/h6-7,12-14H,3-5,8-11,21H2,1-2H3,(H,22,26);1H
